US06919329B2
Step 1: Preparation of 4-(2,6-difluoro-4-nitrophenyl)thiomorpholine
A solution of 3,4,5-trifluoronitrobenzene (5.00 g, 28.24 mmol) in acetonitrile (60 mL) is cooled to 0° C. and treated with N,N-diisopropylethylamine (7.38 mL, 42.35 mmol) followed by thiomorpholine (2.98 mL, 29.65 mmol). The ice bath is removed and the reaction mixture stirred at room temperature under nitrogen for approximately 24 h, during which additional thiomorpholine (0.1 eq) is added. The solvent is removed under reduced pressure, and the residue is diluted with ethyl acetate, washed with 1N hydrochloric acid (until the washings are acidic), saturated aqueous sodium bicarbonate and saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound, mp 104-105° C.

reactant | 3,4,5-trifluoronitrobenzene | 28.24 mmol, 5.00 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | N,N-diisopropylethylamine | 42.35 mmol, 7.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiomorpholine | 29.65 mmol, 2.98 mL | N1CCSCC1 | C4H9NS
reactant | thiomorpholine | 0.1 eq | N1CCSCC1 | C4H9NS
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 4-(2,6-difluoro-4-nitrophenyl)thiomorpholine | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCSCC1 | C10H10F2N2O2S
